US05994368
To a mixture of 8-[3-[N-[(E)-3-(6-carboxypyridin-3-yl)-acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline (100 mg), 2-aminopyrazine (19.7 mg) and N,N-dimethylformamide (2 ml) were added 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (43 mg) and 1-hydroxybenzotriazole (35 mg), and the mixture was stirred for 36 hours at ambient temperature. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by preparative thin-layer chromatography (methylene chloride--methanol) to give 8-[2,6-dichloro-3-[N-methyl-N-[(E)-3-[6-(2-pyrazinylcarbamoyl)-pyridin-3-yl]acryloylglycyl]amino]benzyloxy]-2-methylquinoline (21 mg) as an amorphous powder.

reactant | 8-[3-[N-[(E)-3-(6-carboxypyridin-3-yl)-acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline | 100 mg | C(=O)(O)C1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C29H24Cl2N4O5
reactant | 2-aminopyrazine | 19.7 mg | NC1=NC=CN=C1 | C4H5N3
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 43 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 35 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 8-[2,6-dichloro-3-[N-methyl-N-[(E)-3-[6-(2-pyrazinylcarbamoyl)-pyridin-3-yl]acryloylglycyl]amino]benzyloxy]-2-methylquinoline | 21 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C(CNC(\C=C\C=1C=NC(=CC1)C(NC1=NC=CN=C1)=O)=O)=O)C)Cl | C33H27Cl2N7O4
